US04318913
1-Methyl-N3 -ethyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
A mixture of N-[5-[[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-amino]-1-methyl-1H-1,2,4-triazol-3-yl]acetamide (1.1 g), lithium aluminium hydride (0.15 g) and tetrahydrofuran (20 ml) was heated at reflux for 12 h under a nitrogen atmosphere. The mixture was quenched with water (5 ml), filtered and the filtrate distilled to give the title compound as a pale yellow oil (0.6 g) b.p. 220°/0.06 mm. TLC silica, methanol/0.88 ammonia 80:1, Rf 0.54.

reactant | N-[5-[[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-amino]-1-methyl-1H-1,2,4-triazol-3-yl]acetamide | 1.1 g | CN(C)CC=1C=C(OCCCNC2=NC(=NN2C)NC(C)=O)C=CC1 | C17H26N6O2
reactant | lithium aluminium hydride | 0.15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-Methyl-N3 -ethyl-N5 -[3-[3-[(dimethylamino)methyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.6 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN(C)C)NCC | C17H28N6O
